US07820837B2
ethyl 8-[(3-phenoxybenzyl)oxy]-2,3,4,5-tetrahydro-1-benzoxepine-4-carboxylate
A solution of ethyl 8-hydroxy-2,3,4,5-tetrahydro-1-benzoxepine-4-carboxylate (0.189 g, 0.800 mmol), 3-phenoxybenzyl alcohol (0.240 g, 1.20 mmol) and tributylphosphine (0.299 mL, 1.20 mmol) in toluene (8 mL) was stirred under ice-cooling. 1,1′-(Azodicarbonyl)dipiperidine (0.279 g, 1.20 mmol) was added by small portions, and the mixture was stirred under nitrogen atmosphere at room temperature for 8 hr. Hexane (4 mL) was added to the reaction mixture, and the precipitated insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-20% ethyl acetate/hexane) to give the title compound (0.20 g, yield 60%) as a colorless oil.

reactant | ethyl 8-hydroxy-2,3,4,5-tetrahydro-1-benzoxepine-4-carboxylate | 0.800 mmol, 0.189 g | OC1=CC2=C(CC(CCO2)C(=O)OCC)C=C1 | C13H16O4
reactant | 3-phenoxybenzyl alcohol | 1.20 mmol, 0.240 g | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
reactant | tributylphosphine | 1.20 mmol, 0.299 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 1.20 mmol, 0.279 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | Hexane | 4 mL | CCCCCC | C6H14
product | ethyl 8-[(3-phenoxybenzyl)oxy]-2,3,4,5-tetrahydro-1-benzoxepine-4-carboxylate | 0.20 g, yield 60% | O(C1=CC=CC=C1)C=1C=C(COC2=CC3=C(CC(CCO3)C(=O)OCC)C=C2)C=CC1 | C26H26O5
